US04644005
F2. 1-methyl-7-benzoyloxindole
To a solution of 6.17 g. (26.25 mmoles) of 1-methyl-7-benzoylindole in 62 ml. of methylene chloride was added 3.58 g. (26.25 mmoles) of 98% N-chlorosuccinimide and the mixture allowed to stir for 90 minutes. An additional 720 mg. of N-chlorosuccinimide was added and stirring continued for 2 hours. The reaction mixture was concentrated in vacuo and 52 ml. of acetic acid added. The mixture was heated to 80° C. and 27 ml. of 85% phosphoric acid was added. The temperature was raised to reflux for 90 minutes and the reaction was cooled and poured into 200 ml. of ice and water. The precipitate was filtered, dissolved in methylene chloride and the solution dried with magnesium sulfate. Removal of the solvent gave a residue which was dissolved in 5% diethyl ether-methylene chloride and filtered through silica gel. The fractions were collected, combined and concentrated to give 4.0 g. of the product as a viscous oil.

reactant | 1-methyl-7-benzoylindole | 26.25 mmoles | CN1C=CC2=CC=CC(=C12)C(C1=CC=CC=C1)=O | C16H13NO
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | N-chlorosuccinimide | 26.25 mmoles | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | diethyl ether methylene chloride | C(C)OCC.C(Cl)Cl
product | 1-methyl-7-benzoyloxindole | CN1C(CC2=CC=CC(=C12)C(C1=CC=CC=C1)=O)=O | C16H13NO2
